US04080335
2,2-Dimethyl-7-(2-hydroxyethyloxy)-4-(4-trifluoromethylphenyl) chroman tosylate
p-Toluene-sulphonyl chloride (0.42g) was added portionwise to a solution of 2,2-dimethyl-7-(2-hydroxyethyloxy)-4-(4-trifluoromethylphenyl) chroman (0.7g) in pyridine (20 ml.) and the solution left at room temperature for 2 hours and then at 0° C for 12 hours. The reaction mixture was poured onto ice, extracted with ether (2 × 100 ml.) and the ether extract dried (sodium sulphate). Removal of the solvent under reduced pressure gave an oil (0.65g.) which had spectroscopic properties consistent within the title compound.

reactant | p-Toluene-sulphonyl chloride | 0.42g | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
reactant | 2,2-dimethyl-7-(2-hydroxyethyloxy)-4-(4-trifluoromethylphenyl) chroman | 0.7g | CC1(OC2=CC(=CC=C2C(C1)C1=CC=C(C=C1)C(F)(F)F)OCCO)C | C20H21F3O3
solvent | pyridine | 20 ml | N1=CC=CC=C1 | C5H5N
product | 2,2-Dimethyl-7-(2-hydroxyethyloxy)-4-(4-trifluoromethylphenyl) chroman tosylate | S(=O)(=O)(O)C1=CC=C(C)C=C1.CC1(OC2=CC(=CC=C2C(C1)C1=CC=C(C=C1)C(F)(F)F)OCCO)C | InChI=1S/C20H21F3O3.C7H8O3S/c1-19(2)12-17(13-3-5-14(6-4-13)20(21,22)23)16-8-7-15(25-10-9-24)11-18(16)26-19;1-6-2-4-7(5-3-6)11(8,9)10/h3-8,11,17,24H,9-10,12H2,1-2H3;2-5H,1H3,(H,8,9,10)
